US07875645B2
2-[2-(4-Chloro-phenylsulfanyl)-benzyl]-4,5-dihydro-1H-imidazole was prepared from 2-(4-chloro-phenylsulfanyl)-phenyl-acetonitrile and ethylene diamine in analogy to Example 19 b): white solid; MS (EI): 302.9 ((M+H)+.).

reactant | 2-(4-chloro-phenylsulfanyl)-phenyl-acetonitrile | ClC1=CC=C(C=C1)SC1=C(C=CC=C1)CC#N | C14H10ClNS
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-[2-(4-Chloro-phenylsulfanyl)-benzyl]-4,5-dihydro-1H-imidazole | ClC1=CC=C(C=C1)SC1=C(CC=2NCCN2)C=CC=C1 | C16H15ClN2S
